US05891899
Ethyl 2-(4-bromobenzoyl)-2-(9H-xanthen-9-yl)acetate (10.0 g, 0.02 mol) was heated in a solution of dimethylsulphoxide (100 ml) and water (0.72 ml) following the procedure described in Example (iv) to give 1-(4-bromophenyl)-2-(9H-xanthen-9-yl)ethanone as a yellow solid.

reactant | Ethyl 2-(4-bromobenzoyl)-2-(9H-xanthen-9-yl)acetate | 0.02 mol, 10.0 g | BrC1=CC=C(C(=O)C(C(=O)OCC)C2C3=CC=CC=C3OC=3C=CC=CC23)C=C1 | C24H19BrO4
reactant | dimethylsulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 0.72 ml | O | H2O
product | 1-(4-bromophenyl)-2-(9H-xanthen-9-yl)ethanone | BrC1=CC=C(C=C1)C(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C21H15BrO2
